US06461390B1
Step 1: 2-(N-acetylaminomethyl) 4-nitrophenoxyacetamide
131.4 g of 2-acetylaminomethyl-4-nitrophenol, 64.4 g of chloroacetamide, 86.4 g of calcium carbonate and 57.1 g of potassium iodide in 800 ml of acetone are heated under reflux for four hours. Subsequently the reaction mixture is cooled to room temperature and poured into 1300 ml of water. The resulting precipitate is filtered, washed with water and subsequently dried. 120 g of a yellow product are obtained having a melting point of from 236 to 240° C.

reactant | 2-acetylaminomethyl-4-nitrophenol | 131.4 g | C(C)(=O)NCC1=C(C=CC(=C1)[N+](=O)[O-])O | C9H10N2O4
reactant | chloroacetamide | 64.4 g | ClCC(=O)N | C2H4ClNO
reactant | calcium carbonate | 86.4 g | C([O-])([O-])=O.[Ca+2]
reactant | potassium iodide | 57.1 g | [I-].[K+]
solvent | acetone | 800 ml | CC(=O)C | C3H6O
solvent | water | 1300 ml | O | H2O
product | 2-(N-acetylaminomethyl) 4-nitrophenoxyacetamide | 120 g | C(C)(=O)NCC1=C(OCC(=O)N)C=CC(=C1)[N+](=O)[O-] | C11H13N3O5
